US07109229B2
(a) Ethyl 3-(indol-7-yl)acrylate
A 1.0 M solution of potassium tert-butoxide in THF (12.0 mL, 12.0 mmol) was added to THF (50 mL) at −78° C. under N2 followed by triethyl_phosphonoacetate (2.6 mL, 13.1 mmol). A solution of 7-formylindole (1.01 g, 7.0 mmol) in THF (10 mL) was then added dropwise over 5 min. The resulting red solution was stirred for 2 h, quenched with saturated NaHCO3 (50 mL) and extracted with EtOAc (100 mL). The organic layer was washed with H2O (60 mL), brine (60 mL), dried (MgSO4) and concentrated to a brown oil. Flash chromatography (SiO2, 8%EtOAc/hexanes containing 2% TEA) gave the title compound (1.0 g, 80%) as a white solid. 1H NMR (300 MHz, CDCl3) 8.53 (bs, 1H), 7.98 (m, 1H), 7.71 (m, 1H), 7.42 (m, 1H), 7.27 (m, 1H), 7.14 (m, 1H), 6.60 (m, 1H), 6.51 (m, 1H), 4.31 (m, 2H), 1.40 (m, 3H).

reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | 7-formylindole | 7.0 mmol, 1.01 g | C(=O)C=1C=CC=C2C=CNC12 | C9H7NO
reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | THF | 50 mL | C1CCOC1 | C4H8O
reactant | THF | 12.0 mmol, 12.0 mL | C1CCOC1 | C4H8O
product | Ethyl 3-(indol-7-yl)acrylate | 1.0 g, 80% | N1C=CC2=CC=CC(=C12)C=CC(=O)OCC | C13H13NO2
